US06586441B2
2-Amino-4-chloro-6-(pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile, 2-(hydroxymethyl)pyridine and DBU in DME. EI-MS m/e (%): 261 (M+, 75), 184 (46), 108 (95), 92 (100), 65 (70), 39 (45).

reactant | 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Cl)C#N)S(=O)C | C6H5ClN4OS
reactant | 2-(hydroxymethyl)pyridine | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-chloro-6-(pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Cl)C#N)OCC1=NC=CC=C1 | C11H8ClN5O
